US05750531
Synthesis of 5,6-Dimethyl-2-(2-methylphenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
After 2-methylaniline(1.0 ml, 9.6 mmol) was added to a mixture solution of 5,6-Dimethyl-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloropyrimidine(1.34 g, 4.6 mmol) and dimethylformamide(5 ml), 0.65 g of the titled compound was obtained in accordance with the same procedure as in Step 2 of Example 1.

reactant | 2-methylaniline | 9.6 mmol, 1.0 ml | CC1=C(N)C=CC=C1 | C7H9N
reactant | 5,6-Dimethyl-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloropyrimidine | 4.6 mmol, 1.34 g | CC=1C(=NC(=NC1C)Cl)N1C(C2=CC=CC=C2CC1)C | C16H18ClN3
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 5,6-Dimethyl-2-(2-methylphenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 0.65 g, Yield: 36% | Cl.CC=1C(=NC(=NC1C)NC1=C(C=CC=C1)C)N1C(C2=CC=CC=C2CC1)C | InChI=1S/C23H26N4.ClH/c1-15-9-5-8-12-21(15)25-23-24-17(3)16(2)22(26-23)27-14-13-19-10-6-7-11-20(19)18(27)4;/h5-12,18H,13-14H2,1-4H3,(H,24,25,26);1H
